US05189040
In 10 ml of acetonitrile were dissolved 0.220 g (1.00 mmol) of 1,3-dimethyl-4-(3-methylphenoxy)-5-hydroxypyrazole, 0.220 g (1.50 mmol) of 2,4-dichloropyrimidine and 0.210 g (1.50 mmol) of potassium carbonate. Thus obtained solution was stirred for 3 hours with refluxing. After completing the reaction, the reaction solution was poured into water, extracted with ethyl acetate and dried. The organic layer was concentrated. The residue was purified by means of silica gel column chromatography (developing solution: ethyl acetate-hexane (1:1 v/v)) to give 0.29 g of 1,3-dimethyl-4-(3-methylphenoxy)-5-(2-chloropyrimidine-4-yloxy)pyrazole.

reactant | 1,3-dimethyl-4-(3-methylphenoxy)-5-hydroxypyrazole | 1.00 mmol, 0.220 g | CN1N=C(C(=C1O)OC1=CC(=CC=C1)C)C | C12H14N2O2
reactant | 2,4-dichloropyrimidine | 1.50 mmol, 0.220 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 1.50 mmol, 0.210 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,3-dimethyl-4-(3-methylphenoxy)-5-(2-chloropyrimidine-4-yloxy)pyrazole | 0.29 g | CN1N=C(C(=C1OC1=NC(=NC=C1)Cl)OC1=CC(=CC=C1)C)C | C16H15ClN4O2
